US06642389B2
c] [rac]-3-(4-{2-[2-(3,5-Dichloro-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-benzo[b]thiophen-7-yl)-2-methoxy-propionic acid
0.142 g of the above prepared [rac]-3-(4-{2-[2-(3,5-dichloro-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-benzo[b]thiophen-7-yl)-2-methoxy-propionic acid ethyl ester (0.27 mmol) was dissolved in 4 ml of THF/EtOH=1/1 and treated with 0.68 ml of 1N NaOH (2.5 eq.). The reaction mixture was stirred at ambient temperature and progress of the hydrolysis followed by TLC. After 2 h, the reaction mixture was poured onto crashed ice/HCl dil. and extracted twice with AcOEt. The organic layer was washed with water and brine, dried over magnesium sulfate, and evaporated to dryness. Crystallization from AcOEt/hexane yielded finally 0.107 g of the title product as white crystals of mp. 160-61°.

reactant | [rac]-3-(4-{2-[2-(3,5-dichloro-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-benzo[b]thiophen-7-yl)-2-methoxy-propionic acid ethyl ester | 0.27 mmol | C(C)OC(C(CC1=CC=C(C2=C1SC=C2)OCCC=2N=C(OC2C)C2=CC(=CC(=C2)Cl)Cl)OC)=O | C26H25Cl2NO5S
reactant | NaOH | 1N, 0.68 ml, 2.5 eq. | [OH-].[Na+]
solvent | THF EtOH | 4 ml | C1CCOC1.CCO
product | [rac]-3-(4-{2-[2-(3,5-Dichloro-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-benzo[b]thiophen-7-yl)-2-methoxy-propionic acid | 0.107 g | ClC=1C=C(C=C(C1)Cl)C=1OC(=C(N1)CCOC1=CC=C(C=2SC=CC21)CC(C(=O)O)OC)C | C24H21Cl2NO5S
